US04214094
A mixture of 500 mg of ethyl 2-[4-(4-chloroanilinomethyl)-2-methoxyphenoxy]-2-methylpropionate, 206 mg of ethanethiol, 159 mg of 50% sodium hydride and 10 ml of dimethylformamide is heated at 100° C. for 3 hours. The reaction mixture is poured into ice-water and washed with ether. The aqueous layer is adjusted to pH 2 with 10% hydrochloric acid and extracted with ether. The extract is washed with water, dried and concentrated. The residue is pulverized with a mixture of diisopropyl ether and n-hexane and the crystals are collected by filtration to give 250 mg of 3,3-dimethyl-7-(4-chloroanilinomethyl)-1,4-benzodioxan-2-one, mp 97° to 98° C. From the mother liquor 60 mg of the same compound is further obtained.

reactant | ethyl 2-[4-(4-chloroanilinomethyl)-2-methoxyphenoxy]-2-methylpropionate | 500 mg | ClC1=CC=C(NCC2=CC(=C(OC(C(=O)OCC)(C)C)C=C2)OC)C=C1 | C20H24ClNO4
reactant | ethanethiol | 206 mg | C(C)S | C2H6S
reactant | sodium hydride | 159 mg | [H-].[Na+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3,3-dimethyl-7-(4-chloroanilinomethyl)-1,4-benzodioxan-2-one | 250 mg | CC1(OC2=C(OC1=O)C=C(C=C2)CNC2=CC=C(C=C2)Cl)C | C17H16ClNO3
